Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
coronary angiogram with 30% LAD only. no intervention. 

 
History of Present Illness:
Unfortunately patient is a poor historian due to her cognitive
impairment, therefore majority of history obtained from son and
paperwork at bedside. Per this history, patient has had ongoing
vague chest pain as well as dizziness daily for several weeks to
months. As the patient lives alone and cannot provide history,
she is unable to further characterize however family is 
concerned
because her complaints of these symptoms have increased in 
recent
weeks. As a result she presented to ___ 1 week ago
where she was diagnosed with subsegmental PE and started on
rivaroxaban. She subsequently visited another ED for same
complaint and this is patients ___ hospital visit since that PE
diagnosis.

Pt reporting non-exertional chest pain ongoing for
months and chief complaint of dizziness at rest. She reports
dizziness is occasionally associated with chest pain and again
cannot characterize further. She remained hemodynamically stable
throughout ED course. In ED she had Troponin neg x 2 and proBNP
481. Doppler US of b/l lower extremities with no DVT. CTA showed
tiny nonocclusive pulmonary embolism in the right posterior 
basal
subsegmental branch, no pulmonary infarct, several pulmonary
nodules. TTE showed mild MR, normal EF and no other
abnormalities. EKG with Q in III and AVF, TWI in III and AVF,
otherwise diffuse T wave flattening. Patient subsequently had
pharmacologic stress test which revealed "reversible, small,
moderate severity perfusion defect involving the LAD territory".
As a result cardiology consulted for management of stress test
findings. Patient also thought to have UTI (>182 WBC, few
bacteria, nitrate and ___ pos) therefore started on ceftriazone 
in
ED. 

Otherwise, the patient denies chest pain, shortness of breath,
palpitations, orthopnea, PND, lower extremity edema, dizziness,
presyncope, or syncope.

REVIEW OF SYSTEMS:
Per HPI, otherwise and comprehensive 10-point review of systems
is within normal limits.

 
Past Medical History:
PAST CARDIAC HISTORY:
- PE as above

OTHER PAST MEDICAL HISTORY:
- h/o lumpectomy
- insomnia - on trazodone
 
Social History:
___
Family History:
FAMILY HISTORY:  
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.
 
Physical Exam:
On admission:
VS: 98.1PO, 140 / 76L Sitting, 69, 18, 98 Ra 
GENERAL: Well developed, well nourished woman in NAD. 
HEENT: Normocephalic atraumatic. Sclera anicteric. EOMI. 
NECK: supple  
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs,
rubs, or gallops.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. 
EXTREMITIES: Warm, well perfused. No pitting ___. 
SKIN: No significant skin lesions or rashes.  
NEURO: AAOX3, appropriately conversational, moving all
extremities 
 
Pertinent Results:
On admission:

___ 12:12PM BLOOD WBC-8.2 RBC-4.49 Hgb-12.4 Hct-38.9 MCV-87 
MCH-27.6 MCHC-31.9* RDW-13.8 RDWSD-42.9 Plt ___
___ 02:58PM BLOOD ___ PTT-37.1* ___
___ 12:12PM BLOOD Glucose-93 UreaN-8 Creat-0.8 Na-142 K-4.9 
Cl-108 HCO3-21* AnGap-13
___ 06:26AM BLOOD ALT-9 AST-15 AlkPhos-58 TotBili-0.4
___ 12:12PM BLOOD cTropnT-<0.01
___ 11:35PM BLOOD cTropnT-<0.01
___ 12:12PM BLOOD Calcium-9.5 Phos-2.6* Mg-2.0
___ 06:26AM BLOOD Triglyc-90 HDL-73 CHOL/HD-3.2 
LDLcalc-139*
.
coronary angiogram ___:
Coronary Description
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the
Left Anterior Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. There
are mild irregularities in the proximal segment.
The Diagonal, arising from the proximal segment, is a medium 
caliber vessel.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel.
The Obtuse Marginal, arising from the proximal segment, is a 
medium caliber vessel.
The Atrioventricular Circumflex, arising from the mid segment, 
is a medium caliber vessel.
The Superior lateral of the AVCx, arising from the distal 
segment, is a medium caliber vessel.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a small caliber vessel.
Interventional Details
Complications: There were no clinically significant 
complications.
Name: ___ MRN: ___ Study Date: ___ 14:34:47 
p. ___
Findings
• No angiographically apparent coronary artery disease.
Recommendations
• Secondary prevention of CAD
.
ECHO ___:
The left atrial volume index is normal. There is normal left 
ventricular wall thickness with a normal cavity size.
There is normal regional and global left ventricular systolic 
function. Quantitative biplane left ventricular
ejection fraction is 68 % (normal 54-73%). There is no resting 
left ventricular outflow tract gradient.
Tissue Doppler suggests a normal left ventricular filling 
pressure (PCWP less than 12mmHg). Normal right
ventricular cavity size with normal free wall motion. Tricuspid 
annular plane systolic excursion (TAPSE) is
normal. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The
aortic arch diameter is normal with a normal descending aorta 
diameter. The aortic valve leaflets (3) appear
structurally normal. There is no aortic valve stenosis. There is 
no aortic regurgitation. The mitral valve leaflets
appear structurally normal with no mitral valve prolapse. There 
is mild [1+] mitral regurgitation. The pulmonic
valve leaflets are normal. The tricuspid valve leaflets appear 
structurally normal. There is physiologic tricuspid
regurgitation. The pulmonary artery systolic pressure could not 
be estimated. There is a trivial pericardial
effusion.
IMPRESSION: Normal left ventricular wall thickness and 
biventricular cavity sizes and regional/
global biventricular systolic function. Mild mitral 
regurgitation.
.
CTA ___:
IMPRESSION: 
  
1. Tiny nonocclusive pulmonary embolism in the right posterior 
basal 
subsegmental branch.  No large central filling defect.  No acute 
aortic abnormality.  No evidence of underlying pulmonary 
infarct. 
2. Multiple pulmonary nodules which measure up to 6 mm in the 
left upper lobe. 
Recommend correlation with outside hospital imaging to 
characterize stability. 
  
RECOMMENDATION(S):  For incidentally detected multiple solid 
pulmonary nodules measuring 6 to 8mm, a CT follow-up in 3 to 6 
months is recommended in a low-risk patient, with an optional CT 
follow-up
in 18 to 24 months. In a high-risk patient, both a CT follow-up 
in 3 to 6 months and in 18 to 24 months is recommended. 
.
Labs on DC:

___ 06:26AM BLOOD WBC-7.9 RBC-4.25 Hgb-12.0 Hct-37.6 MCV-89 
MCH-28.2 MCHC-31.9* RDW-14.1 RDWSD-45.1 Plt ___
___ 06:26AM BLOOD Glucose-72 UreaN-21* Creat-0.7 Na-142 
K-3.7 Cl-108 HCO3-20* AnGap-14
___ 06:26AM BLOOD Albumin-3.9 Calcium-8.9 Phos-3.3 Mg-2.0 
Cholest-230*
 
Brief Hospital Course:
___ female h/o Alzheimer's dementia, recent PE on
rivaroxaban, breast cancer s/p lumpectomy, who presented with
dizziness and SOB, found to have abnormal stress test. 

Plan: 

 # Chest pain/Abnormal stress: Found to have a small reversible
perfusion defect on her pMIBI. Cath today to evaluate cors 
showed no significant CAD. Trops neg x2. Currently chest pain 
free. 
- restart rivaroxaban tomorrow in the am, ___. 

 # HTN: Noted to be elevated in ED, WNL on floor. Metoprolol
started but DC'ed when pt did not have CAD. PCP should consider 
better HTN med if needed. 

 # Pulmonary embolus: 
CTA on admission noted tiny nonocclusive pulmonary embolism in
the right posterior basal subsegmental branch. Note her recent
diagnosis of PE at OSH 1 week ago, already on rivaroxaban. HDS.
No RV dysfunction on echo. Trop neg, BNP low. 
- resume Rivaroxiban, she will need 15 mg BId until ___,
then dec to 20 mg daily. 

 # UTI: ecoli, pan sensitive. 
Patient denies frank urinary symptoms though she and family note
increased forgetfulness recently; as such will treat for UTI for
now. Low suspicion for sepsis. 
- change ceftriaxone to cefpodoxime for total of 7 days. 
- F/U blood cultures

 # Dementia: appears quite clear today, but pt admits to
forgetfulness. Reportedly doing ok at home.
- rx UTI
Transitional:
*******************
CTA ___:
IMPRESSION: 
  
1. Tiny nonocclusive pulmonary embolism in the right posterior 
basal 
subsegmental branch.  No large central filling defect.  No acute 
aortic abnormality.  No evidence of underlying pulmonary 
infarct. 
2. Multiple pulmonary nodules which measure up to 6 mm in the 
left upper lobe. 
Recommend correlation with outside hospital imaging to 
characterize stability. 
  
RECOMMENDATION(S):  For incidentally detected multiple solid 
pulmonary nodules measuring 6 to 8mm, a CT follow-up in 3 to 6 
months is recommended in a low-risk patient, with an optional CT 
follow-up
in 18 to 24 months. In a high-risk patient, both a CT follow-up 
in 3 to 6 months and in 18 to 24 months is recommended. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraZODone 100 mg PO QHS insomnia 
2. Rivaroxaban 15 mg PO BID 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 200 mg PO Q12H Duration: 5 Days  
2.  Rivaroxaban 15 mg PO BID 
Restart this medicine tomorrow morning, ___.   
3.  TraZODone 100 mg PO QHS insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Urinary tract infection
Pulmonary embolus
Hypertension
Chest pain
Dementia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  
 It was a pleasure taking care of you at the ___ 
___.  
 WHY WAS I IN THE HOSPITAL?  
 ==========================  
 - You presented to hospital with chest pain and trouble 
breathing and a stress test showed there might be a blockage in 
your heart arteries.   
 WHAT HAPPENED IN THE HOSPITAL?  
 ==============================  
- You had a CT scan of your chest that showed the pulmonary 
blood clots are very small. You also had a heart catheterization 
which did not show any significant blockages in your heart 
arteries.  
- You will go home on the same medicines you came in on except 
you have a new prescription for an antibiotic. 
 WHAT SHOULD I DO WHEN I GO HOME?  
 ================================  
 - Take all of your medications as prescribed (listed below).  
 - Follow up with your doctors as listed below  
 
 If you were given any prescriptions on discharge, any future 
refills will need to be authorized by your outpatient providers, 
primary care or cardiologist.  
 It was a pleasure participating in your care.  
 If you have any urgent questions that are related to your 
recovery from your hospitalization or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, please call the ___ HeartLine at 
___ to speak to a cardiologist or cardiac nurse 
practitioner.  
 -Your ___ Care Team  

 
Followup Instructions:
___